US07714126B2
With a procedure similar to example 43 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(3-hydroxy-pyrrolidin-1-yl)-pyridin-3-yl]-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and 1-(5-amino-pyridin-2-yl)-pyrrolidin-3-ol. LCMS calcd for C20H17F3N4O3 (m/e) 418, obsd 419 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 1-(5-amino-pyridin-2-yl)-pyrrolidin-3-ol | NC=1C=CC(=NC1)N1CC(CC1)O | C9H13N3O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(3-hydroxy-pyrrolidin-1-yl)-pyridin-3-yl]-amide | OC1CN(CC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C20H17F3N4O3
